US06677352B1
A solution of aniline (18.4 mL, 202 mmol) in TEA (28.2 mL, 202 mmol) was added slowly to a cooled (0° C.) and stirred solution of 3,3-dichloro-I-[2,6-dichloro-4- (trifluoromethyl)-3-pyridinyl]-2-propen-1-one (22.9 g, 67.4 mmol) in dioxane (220 mL). The reaction was allowed to warm to room temperature and was stirred overnight. The mixture was treated with 10% HCl and extracted with Et2O (3×). The combined organic extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. Silica gel flash chromatography of the residue using 6:1 Hex:EtOAc gave 3,3-dianilino-1-[2,6-dichloro-4-(trifluoromethyl)-3-pyridinyl]-2-propen-1-one as an off-white solid (13.10 g, 43%): 1H-NMR (d6-DMSO, 300 MHz) δ12.24 (br s, 1H), 9.20 (br s, 1H), 7.95 (s, 1H), 7.12-7.42 (m, 10H), 4.82 (s, 1H); Rf=0.60 (6:1 Hex:EtOAc).

reactant | aniline | 202 mmol, 18.4 mL | NC1=CC=CC=C1 | C6H7N
reactant | 3,3-dichloro-I-[2,6-dichloro-4- (trifluoromethyl)-3-pyridinyl]-2-propen-1-one | 67.4 mmol, 22.9 g | ClC(=CC(=O)C=1C(=NC(=CC1C(F)(F)F)Cl)Cl)Cl | C9H2Cl4F3NO
reactant | HCl | Cl | ClH
solvent | dioxane | 220 mL | O1CCOCC1 | C4H8O2
product | 3,3-dianilino-1-[2,6-dichloro-4-(trifluoromethyl)-3-pyridinyl]-2-propen-1-one | 13.10 g, 43% | N(C1=CC=CC=C1)C(=CC(=O)C=1C(=NC(=CC1C(F)(F)F)Cl)Cl)NC1=CC=CC=C1 | C21H14Cl2F3N3O
